US08334376B2
To a solution of (R)-(3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 2-((tert-butoxycarbonyl)amino)propanoate in EtOAc (3 mL) was added HCl (4 M in EtOAc, 3 mL) in drops at 0° C. The resulting mixture was warmed to rt after 30 min and stirred for 2 h. The mixture was quenched with saturated NaHCO3 solution and extracted with EtOAc (20 mL×3). The organic layer was washed with H2O (10 mL×4) and then dried over anhydrous Na2SO4, concentrated under reduced pressure. The crude product was then purified via Prep-TLC (CH2Cl2: MeOH=10:1) to afford the (R)-(3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 2-aminopropanoate (8 mg, 43% yield) as a white solid. LRMS (M+H+) m/z 458.5. 1H NMR (CD3OD, 400 MHz) δ 7.89 (dd, J=9.6, 2.4 Hz, 1H), 7.33 (m, 1H), 6.17 (d, J=9.6 Hz, 1H), 5.02 (m, 1H), 3.54 (m, 1H), 2.43-2.48 (m, 1H), 1.08-2.15 (m, 24H), 0.88 (s, 3H), 0.62 (s, 3H).

reactant | (R)-(3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 2-((tert-butoxycarbonyl)amino)propanoate | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@@]4([C@@H]3CC[C@@H]2C1)O)C=1C=CC(OC1)=O)C)C)C | C32H47NO7
reactant | HCl | 4 M, 3 mL | Cl | ClH
solvent | EtOAc | 3 mL | CCOC(=O)C | C4H8O2
product | (R)-(3S,5R,8R,9S,10S,13R,14S,17R)-14-hydroxy-10,13-dimethyl-17-(2-oxo-2H-pyran-5-yl)hexadecahydro-1H-cyclopenta[a]phenanthren-3-yl 2-aminopropanoate | 8 mg, 43% yield | N[C@@H](C(=O)O[C@H]1CC[C@@]2([C@H]3CC[C@@]4([C@H](CC[C@@]4([C@@H]3CC[C@@H]2C1)O)C=1C=CC(OC1)=O)C)C)C | C27H39NO5
